US08278401B2
Synthesis of 4-bromoresorcinol diglycidyl ether (BRDGE):
Epichlorohydrin (122.4 g, 1.32 mol), 4-bromoresorcinol (25.0 g, 0.13 mol) and Isopropyl alcohol (100 g) were added to a 500 ml three-neck flask and warmed to 75° C. A solution of 22.2 g 50 wt % sodium hydroxide in water was added dropwise to the flask over 6 hours. The flask temperature was raised to 83° C. and held for an additional 2 hours. After the reaction, the solution was filtered and solvents were evaporated. Toluene was then added to the residual mass. The solids were filtered and the toluene was again removed, giving a light-brown oil. Further purification was conducted using vacuum distillation to give a clear liquid which crystallizes upon standing. 1H NMR (CDCl3): δppm 2.6-2.9 (4H), 3.3 (2H), 3.8-4.3 (4H), 6.3-7.4 (3H).

reactant | Epichlorohydrin | 1.32 mol, 122.4 g | C(Cl)C1CO1 | C3H5ClO
reactant | 4-bromoresorcinol | 0.13 mol, 25.0 g | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | Isopropyl alcohol | 100 g | C(C)(C)O | C3H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-bromoresorcinol diglycidyl ether | BrC12C(C(=C(O)C=C1)C1C(COCC3C2O3)O1)O | C12H13BrO5
